US04962103
Dimethyl malonate (660 mg) and 180 mg of 50% sodium hydride in 12.5 ml of dry dimethylformamide were stirred at room temperature in a nitrogen stream for 15 minutes, and 1.34 g of (2S,4R)-1-(p-nitrobenzyloxycarbonyl)-2-iodomethyl-4-t-butyldimethylsilyloxypyrrolidine was added thereto. The resulting mixture was stirred at room temperature for 15 hours, neutralized with 3.75 ml of 1N hydrochloric acid, diluted with water, extracted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate and distilled to remove the solvent. The residue was purified by silica gel chromatogrphy to obtain (2R,4R)-1-(p-nitrobenzyloxycarbonyl)-2-(2,2-dimethoxycarbonylethyl)-4-t-butyldimethylsilyloxypyrrolidine.

reactant | Dimethyl malonate | 660 mg | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 180 mg | [H-].[Na+]
reactant | (2S,4R)-1-(p-nitrobenzyloxycarbonyl)-2-iodomethyl-4-t-butyldimethylsilyloxypyrrolidine | 1.34 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O[Si](C)(C)C(C)(C)C)CI)C=C1 | C19H29IN2O5Si
reactant | hydrochloric acid | 1N, 3.75 ml | Cl | ClH
solvent | dimethylformamide | 12.5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2R,4R)-1-(p-nitrobenzyloxycarbonyl)-2-(2,2-dimethoxycarbonylethyl)-4-t-butyldimethylsilyloxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O[Si](C)(C)C(C)(C)C)CC(C(=O)OC)C(=O)OC)C=C1 | C24H36N2O9Si
